US06605716B2
At room temperature, a three-necked flask fitted with reflux condenser, internal thermometer, dropping funnel and stirrer was charged, under nitrogen protective gas, with 8.6 g of zinc powder (130 mmol) in 53 ml of ethyl acetate. After 2.5 ml of trimethylchlorosilane (19.5 mmol) had been added, the mixture was heated at 65° C. for 30 min, then left to cool to 60° C., following which 10.5 g of acetophenone (87 mmol) were added, and over the course of 6 min, 17.4 g of methyl 2-bromopropionate (104 mmol) were then added dropwise, the temperature being maintained at 65° C. by external cooling. The mixture was stirred at 60° C. for 25 min, and following cooling to 0° C., acidified with 70 ml of 2 N hydrochloric acid to a pH of 1 and stirred for 30 min. Excess zinc was removed by filtration and the organic phase separated. The organic phase was then stirred at 0° C. with 70 ml of 0.5 N hydrochloric acid and finally washed with 30 ml of saturated sodium hydrogen carbonate solution. Following phase separation and drying over sodium sulfate, the solvent was removed by distillation under reduced pressure. Methyl 3-hydroxy-2-methyl-3-phenylbutyrate was obtained in a yield of 15.5 g (91% of theory) with a boiling point of 64° C. (0.03 mbar). The diastereomer ratio of the product was 2:1.

reactant | trimethylchlorosilane | 19.5 mmol, 2.5 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | acetophenone | 87 mmol, 10.5 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | methyl 2-bromopropionate | 104 mmol, 17.4 g | BrC(C(=O)OC)C | C4H7BrO2
reactant | hydrochloric acid | 2 N, 70 ml | Cl | ClH
solvent | ethyl acetate | 53 ml | C(C)(=O)OCC | C4H8O2
catalyst | zinc | 130 mmol, 8.6 g | [Zn] | Zn
product | Methyl 3-hydroxy-2-methyl-3-phenylbutyrate | OC(C(C(=O)OC)C)(C)C1=CC=CC=C1 | C12H16O3
